US07220775B2
A mixture of N-[4-chloro-6-(1-piperidinyl)-2-pyrimidinyl]-N-ethyl-N-[2-(1H-indol-3-yl)ethyl]amine (33.4 mg, 0.087 mmol) and p-toluidine (47 mg, 0.43 mmol) was heated neat under argon at 160° C. in a sealed tube for 12 hours. The crude material was purified by preparative TLC, eluting with hexane/ethyl acetate (4:1). N2-Ethyl-N2-[2-(1H-3-indolyl) ethyl]-N4-(4-methylphenyl)-6-piperidino-2,4-pyrimidinediamine was obtained, from a band at Rf=0.37, as a solid (15 mg, 0.033 mmol, 38%).

reactant | N-[4-chloro-6-(1-piperidinyl)-2-pyrimidinyl]-N-ethyl-N-[2-(1H-indol-3-yl)ethyl]amine | 0.087 mmol, 33.4 mg | ClC1=NC(=NC(=C1)N1CCCCC1)N(CCC1=CNC2=CC=CC=C12)CC | C21H26ClN5
reactant | p-toluidine | 0.43 mmol, 47 mg | NC1=CC=C(C=C1)C | C7H9N
product | N2-Ethyl-N2-[2-(1H-3-indolyl) ethyl]-N4-(4-methylphenyl)-6-piperidino-2,4-pyrimidinediamine | C(C)N(C1=NC(=CC(=N1)NC1=CC=C(C=C1)C)N1CCCCC1)CCC1=CNC2=CC=CC=C12 | C28H34N6
